US05719152
4) 6-Bromo-2-methoxycarbonylmethyltetrahydroquinoline
To a solution of 2-methoxycarbonylmethyltetrahydroquinoline (31.5 g, 0.153 mol) in DMF (750 mL) was added dropwise a solution of N-bromosuccinimide (27.41 g, 0.154 mol) in DMF (550 mL) at 0° C. The mixture was stirred for 2 h at the same temperature, poured into water (2 L), and extracted with a mixture of toluene and ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, and concentrated to give 44.72 g of the title compound (quant).

reactant | 2-methoxycarbonylmethyltetrahydroquinoline | 0.153 mol, 31.5 g | COC(=O)CC1NC2=CC=CC=C2CC1 | C12H15NO2
reactant | N-bromosuccinimide | 0.154 mol, 27.41 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | 2 L | O | H2O
solvent | DMF | 750 mL | CN(C)C=O | C3H7NO
solvent | DMF | 550 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-2-methoxycarbonylmethyltetrahydroquinoline | 44.72 g | BrC=1C=C2CCC(NC2=CC1)CC(=O)OC | C12H14BrNO2
